US04522948
1-[4-Cyclohexyl-2-oxo-n-butyl]imidazole (2.2 g) in 15 ml of dry tetrahydrofuran was added dropwise to a stirred solution of butylmagnesium bromide [from butyl bromide (2.05 g) and magnesium (0.36 g)]in 20 ml of tetrahydrofuran at 0° C. under nitrogen. After one hour the mixture was allowed to come to room temperature and quenched with saturated ammonium chloride. Most of the tetrahydrofuran was removed under reduced pressure and the residue treated with aqueous potassium carbonate and extracted with ethyl acetate. The extracts were washed, dried (MgSO4) and evaporated to give 1-[3-(cyclohexylmethyl)-3-hydroxy-n-heptyl]imidazole. Purification could be effected if needed by chromatographpy on silica gel eluting with 5% methanol in methylene chloride.

reactant | 1-[4-Cyclohexyl-2-oxo-n-butyl]imidazole | 2.2 g | C1(CCCCC1)CCC(CN1C=NC=C1)=O | C13H20N2O
reactant | butylmagnesium bromide | C(CCC)[Mg]Br
reactant | butyl bromide | 2.05 g | C(CCC)Br | C4H9Br
reactant | magnesium | 0.36 g | [Mg] | Mg
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[3-(cyclohexylmethyl)-3-hydroxy-n-heptyl]imidazole | C1(CCCCC1)CC(CCN1C=NC=C1)(CCCC)O | C17H30N2O
